US09169249B2
A solution of 1-(4-fluoro-2-isopropoxyphenyl)-4-methyl-1H-tetrazol-5(4H)-one (3.50 g, 13.9 mmol, 1 equiv) in H2SO4 (35 mL) was cooled in ice/water bath. To the cooled solution, was added HNO3 (fuming >90%; 715 uL, 15.3 mmol, 1.1 equiv) dropwise, and the cooled reaction mixture was allowed to warm to RT over 2 h. The reaction mixture was quenched with ice, and extracted with EtOAc 3×. The organic layer was then extracted with saturated NaHCO3 3×. The basic aqueous layer was acidified to pH <3 with 6N HCl. Then, the acidic layer was extracted with EtOAc 3×, and the organic layer was dried over Na2SO4, filtered, and concentrated to dryness to provide 1-(4-fluoro-2-hydroxy-5-nitrophenyl)-4-methyl-1H-tetrazol-5(4H)-one (2.94 g, 83%) as brown solid that was used without further purification. 1H NMR (300 MHz; d6-DMSO) δ 12.5 (bs, 1H), 8.41-8.44 (d, 1H, J=8.7 Hz), 7.04-7.08 (d, 1H, J=13 Hz), 3.59 (s, 3H); 19F NMR (282 MHz; d6-DMSO) δ −111.3 (q); m/z=256 (M+H)+.

reactant | 1-(4-fluoro-2-isopropoxyphenyl)-4-methyl-1H-tetrazol-5(4H)-one | 13.9 mmol, 3.50 g, 1 equiv | FC1=CC(=C(C=C1)N1N=NN(C1=O)C)OC(C)C | C11H13FN4O2
reactant | HNO3 | 15.3 mmol, 715 uL, 1.1 equiv | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 35 mL | OS(=O)(=O)O | H2O4S
product | 1-(4-fluoro-2-hydroxy-5-nitrophenyl)-4-methyl-1H-tetrazol-5(4H)-one | 2.94 g, 83% | FC1=CC(=C(C=C1[N+](=O)[O-])N1N=NN(C1=O)C)O | C8H6FN5O4
